US09359350B2
(1) Synthesis of 1-(2,6-dimethylbenzyl)-1H-indole-6-carbaldehyde [57-1] (hereinafter referred to as a compound [57-1])
To a solution of indole-6-carboxaldehyde (457 mg) in N,N-dimethylformamide (5 mL) were added potassium carbonate (936 mg) and 2,6-dimethylbenzyl chloride (752 mg) at room temperature, and then the reaction mixture was subjected to microwave irradiation at 160° C. for 30 minutes. The reaction mixture was quenched with water, and extracted with ethyl acetate. The obtained organic layer was dried over anhydrous sodium sulfate, filtered, and the filtrate was concentrated under reduced pressure. The obtained residue was purified by silica gel column chromatography to give the titled compound (740 mg) as a yellow solid.

reactant | indole-6-carboxaldehyde | 457 mg | N1C=CC2=CC=C(C=C12)C=O | C9H7NO
reactant | potassium carbonate | 936 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 2,6-dimethylbenzyl chloride | 752 mg | CC1=C(CCl)C(=CC=C1)C | C9H11Cl
solvent | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
product | 1-(2,6-dimethylbenzyl)-1H-indole-6-carbaldehyde | 740 mg | CC1=C(CN2C=CC3=CC=C(C=C23)C=O)C(=CC=C1)C | C18H17NO
